US08058276B2
Step 9.2: Trifluoro-methanesulfonic acid 6-triisopropylsilanyloxy-benzofuran-3-yl ester
To an ice-cooled solution of 22.9 g (74.7 mMol) 6-triisopropylsilanyloxy-benzofuran-3-one in 300 ml CH2Cl2, 19.1 ml (164 mMol) 2,6-lutidine are added, followed dropwise by 17.6 ml (82.2 mMol) trifluormethanesulfonic acid anhydride. After 10 min, the mixture is warmed up to 15° C. for 20 min and then concentrated on the rotation-evaporator in vacuo. The residue is re-dissolved in CH2Cl2 and together with 100 g SiO2 concentrated again. The resulting powder is put immediately on top of a chromatography column (hexane/EtOAc 99:1) and the title compound eluated with hexane/EtOAc 99:1 as an oil: MS: [M+1]+=439; TLC(hexane/EtOAc 19:1): Rf=0.51.

reactant | 6-triisopropylsilanyloxy-benzofuran-3-one | 74.7 mMol, 22.9 g | C(C)(C)[Si](OC1=CC2=C(C(CO2)=O)C=C1)(C(C)C)C(C)C | C17H26O3Si
reactant | 2,6-lutidine | 164 mMol, 19.1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluormethanesulfonic acid anhydride | 82.2 mMol, 17.6 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-triisopropylsilanyloxy-benzofuran-3-yl ester | C(C)(C)[Si](OC1=CC2=C(C(=CO2)OS(=O)(=O)C(F)(F)F)C=C1)(C(C)C)C(C)C | C18H25F3O5SSi
